US06806024B1
16.42 g (0.1 mol) of methyl phenylglyoxalate is transesterified as described in example 1.1, using 1-hexanol instead of methoxyethanol. 21.33 g (87%) hexyl phenylglyoxalate are obtained as a colorless liquid.

reactant | methyl phenylglyoxalate | 0.1 mol, 16.42 g | C1(=CC=CC=C1)C(C(=O)OC)=O | C9H8O3
reactant | 1-hexanol | C(CCCCC)O | C6H14O
product | hexyl phenylglyoxalate | 21.33 g, 87% | C1(=CC=CC=C1)C(C(=O)OCCCCCC)=O | C14H18O3
